US07517910B2
3-(4-([3-(3,4-dihydroquinolin-1 (2H)-yl)benzyl]oxy)phenyl)propanoic acid
A mixture of methyl 3-{4-[(3-bromobenzyl)oxy]phenyl}propanoate (0.3 g, 0.86 mmol), 1,2,3,4-tetrahydroquinoline (0.17 mL, 1.29 mmol), tris(dibenzylideneacetone)dipalladium(0) (31 mg, 34 μmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (32 mg, 52 μmol), cesium carbonate (0.39 g, 1.2 mmol) and toluene (6.0 mL) was stirred under a nitrogen atmosphere at 90° C. for 16 hr. After cooling, the reaction mixture washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give an oil. Then, a mixture of the obtained oil, 1N aqueous sodium hydroxide solution (1.7 mL), methanol (2.0 mL) and tetrahydrofuran (4.0 mL) was stirred at room temperature for 2 hr. The reaction mixture was concentrated, and the residue as partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was dried and concentrated under reduced pressure. The residue was purified by preparative HPLC (gradient cycle A), and the object fractions were collected and concentrated. Water was added to the residue, and the mixture was adjusted to pH 7 with saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (60 mg, yield 18%) as a beige powder. MS (APCI−): 386 (M−H).

reactant | methyl 3-{4-[(3-bromobenzyl)oxy]phenyl}propanoate | 0.86 mmol, 0.3 g | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H17BrO3
reactant | 1,2,3,4-tetrahydroquinoline | 1.29 mmol, 0.17 mL | N1CCCC2=CC=CC=C12 | C9H11N
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 52 μmol, 32 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 1.2 mmol, 0.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 1N, 1.7 mL | [OH-].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 34 μmol, 31 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 2.0 mL | CO | CH4O
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-([3-(3,4-dihydroquinolin-1 (2H)-yl)benzyl]oxy)phenyl)propanoic acid | 60 mg, yield 18% | N1(CCCC2=CC=CC=C12)C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1 | C25H25NO3
